US08242355B2
One equivalent weight of diphenylamine, 1 equivalent weight of 1-bromo-4-dodecylbenzene, 0.1 equivalent weight of palladium(II) acetate, 0.4 equivalent weight of tri(t-butyl)phosphine and 4.8 equivalent weight of potassium t-butoxide were heated in a toluene solution at 90° C. for 2 hours to obtain 4-dodecyl-N,N-diphenylaniline. To the above resultant, 2 equivalent weight of N-bromosuccinimide was added and stirred for 30 minutes at room temperature in N,N-dimethylformamide to obtain 4-dodecyl-N,N-bis(4-bromophenyl)aniline. To the obtained compound, 3 equivalent weight of thiophene boric acid, 0.06 equivalent weight of tetrakis(triphenylphosphine)palladium and 2 equivalent weight of potassium carbonate were added, and heated and refluxed for 3 days in a mixture solvent of THF and water to obtain 4-dodecyl-N,N-bis(4-thiophene-2-yl)phenyl)aniline. To the obtained compound, 5 equivalent weight of phosphorus oxychloride and 5 equivalent weight of N,N-dimethylformamide were added and heated at 105° C. for 5 hours under nitrogen atmosphere for diformylizing the thiophene ring. An acetic acid solution composed of the above obtained diformilized compound, 4 equivalent weight of cyanoacetic acid and 5 equivalent weight of ammonium acetate was heated and refluxed for 1 hour. Thus Dye 1 could be obtained.

reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | 1-bromo-4-dodecylbenzene | BrC1=CC=C(C=C1)CCCCCCCCCCCC | C18H29Br
reactant | tri(t-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-dodecyl-N,N-diphenylaniline | C(CCCCCCCCCCC)C1=CC=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C30H39N
